US07396943B2
Part C: 2-Chlorothiazole-5-carboxamide
Dissolve ethyl 2-chlorothiazole-5-carboxylate (0.927 g, 4.84 mmol) in methanol. Cool the solution to 0° C., then bubble NH3 into the reaction mixture for 10 minutes. Then seal the reaction vessel and stir for 3 hours. Concentrate the reaction mixture to give the title product: 1H NMR (CDCl3): 8.21 (s, 1H), 8.19 (s, 1H), 7.77 (s, 1H); HPLC [YMC-Pro pack C-18 (150×4.6 mm, S-5 microm), 0.05% TFA/acetonitrile in 0.05% TFA/water at 1.0 mL/min, 10-20% over 5 min, 20-95% over 18], tR=6.9 min, 100% purity.

reactant | ethyl 2-chlorothiazole-5-carboxylate | 4.84 mmol, 0.927 g | ClC=1SC(=CN1)C(=O)OCC | C6H6ClNO2S
reactant | NH3 | N | H3N
solvent | methanol | CO | CH4O
product | 2-Chlorothiazole-5-carboxamide | ClC=1SC(=CN1)C(=O)N | C4H3ClN2OS
